US07872000B2
5,6,7,8,9,10-Hexahydrocycloocta[b]pyridin-2(1H)-one was heated with excess phosphorus (III) oxychloride at 100° C. for 8 h. The solvent was removed under vacuum. The residue was treated with ice and 1M aqueous potassium carbonate solution, and then extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum. Flash chromatography on silica gel, eluting with a mixture of 96% dichloromethane and 4% methanol gave 2-chloro-5,6,7,8,9,10-hexahydrocycloocta[b]pyridine as a brown oil; 1H NMR (CDCl3, 300 MHz) 7.32 (d, 1H), 7.06 (d, 1H), 2.92 (m, 2H), 2.74 (m, 2H), 1.79 (m, 2H), 1.69 (m, 2H), 1.38 (m, 4H) ppm; 13C NMR (CDCl3, 75 MHz) 161.86, 147.73, 140.19, 135.65, 122.26, 34.33, 32.30, 31.52, 30.83, 26.26, 26.14; MS (ES) 196/198 (M+H).

reactant | 5,6,7,8,9,10-Hexahydrocycloocta[b]pyridin-2(1H)-one | N1C2=C(C=CC1=O)CCCCCC2 | C11H15NO
reactant | phosphorus (III) oxychloride | O(Cl)Cl.[P+3]
product | 2-chloro-5,6,7,8,9,10-hexahydrocycloocta[b]pyridine | ClC1=CC=C2C(=N1)CCCCCC2 | C11H14ClN
